US08426447B2
A vial charged with 5-cyanopyridin-3-ylboronic acid (0.030 g, 0.206 mmol), palladiumtetrakis (10.80 mg, 9.35 μmol), potassium carbonate (0.129 g, 0.935 mmol), and (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (0.090 g, 0.187 mmol) was treated with 1 mL of dioxane followed by 0.4 mL water. The vial was flushed with argon and was heated to 80° C. for 4 hours. The reaction mixture was diluted with EtOAc and dried over MgSO4. The organics were then concentrated, and the crude residue was purified by column chromatography yielding (S)-5-(2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl)nicotinonitrile.

reactant | 5-cyanopyridin-3-ylboronic acid | 0.206 mmol, 0.030 g | C(#N)C=1C=C(C=NC1)B(O)O | C6H5BN2O2
reactant | potassium carbonate | 0.935 mmol, 0.129 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.187 mmol, 0.090 g | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)C)(F)F | C21H18F3N3O5S
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladiumtetrakis | 9.35 μmol, 10.80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.4 mL | O | H2O
product | (S)-5-(2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl)nicotinonitrile | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)C)C=1C=NC=C(C#N)C1 | C26H21N5O2
